US07435815B2
[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid
prepared by reaction of 4-tert-butyl-N-(3-dimethylamino-phenyl)-benzene-sulfonamide with tert-butyl bromoacetate

reactant | 4-tert-butyl-N-(3-dimethylamino-phenyl)-benzene-sulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)N(C)C | C18H24N2O2S
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | [(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC(=CC=C1)N(C)C)CC(=O)O | C20H26N2O4S
